US07414142B2
To a mixture of sodium chloride (1.23 g, 21.0 mmol) and aluminum chloride (5.0 g, 38.2 mmol) at 130° C. was added 1-(4-bromophenyl)-4-chlorobutan-1-one (1.0 g, 3.82 mmol) and the resulting mixture was heated to 180° C. for 20 minutes. The mixture was allowed to cool to room temperature and quenched by portionwise addition to a cold 1N HCl solution (150 mL). The mixture was extracted several times with dichloromethane. The combined organic layers were separated, dried over magnesium sulfate, filtered, and concentrated to give 5-bromo-3-methyl-indan-1-one (0.77 g, 89%).

reactant | sodium chloride | 21.0 mmol, 1.23 g | [Cl-].[Na+]
reactant | aluminum chloride | 38.2 mmol, 5.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1-(4-bromophenyl)-4-chlorobutan-1-one | 3.82 mmol, 1.0 g | BrC1=CC=C(C=C1)C(CCCCl)=O | C10H10BrClO
product | 5-bromo-3-methyl-indan-1-one | 0.77 g, 89% | BrC=1C=C2C(CC(C2=CC1)=O)C | C10H9BrO
